US04734419
A mixture of ethyl 2-[2-(N-benzylcarbamoyl)-anilino]acetate (1.5 g) and N,N'-thiocarbonyldiimidazole (2.85 g) was stirred at 120° C. for 30 minutes. After cooling, the reaction mixture was diluted with chloroform and chromatographed on silica gel. Elution with chloroform gave ethyl 2-(3-benzyl-1,2,3,4-tetrahydro-4-oxo-2-thioxoquinazolin-1-yl)acetate. A mixture of ethyl 2-(3-benzyl-1,2,3,4-tetrahydro-4-oxo-2-thioxoquinazolin-1-yl)acetate and 1N sodium hydroxide (2 ml) in methanol (10 ml) was stirred for 4 hours at room temperature. The reaction mixture was poured into dilute hydrochloric acid and extracted with chloroform. The extract was washed with brine and dried. Removal of the solvent gave 2-(3-benzyl-1,2,3,4-tetrahydro-4-oxo-2-thioxoquinazolin-1-yl)acetic acid (280 mg).

reactant | ethyl 2-[2-(N-benzylcarbamoyl)-anilino]acetate | 1.5 g | C(C1=CC=CC=C1)NC(=O)C1=C(NCC(=O)OCC)C=CC=C1 | C18H20N2O3
reactant | N,N'-thiocarbonyldiimidazole | 2.85 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(3-benzyl-1,2,3,4-tetrahydro-4-oxo-2-thioxoquinazolin-1-yl)acetate | C(C1=CC=CC=C1)N1C(N(C2=CC=CC=C2C1=O)CC(=O)OCC)=S | C19H18N2O3S
